US06211225B1
(S)-N-[N-(2,3-Dihydrobenzofuran-4-yl)-Pyrrolidin-3-yl]Acetamide
(S)-N-(2,3-dihydrobenzofuran-4-yl)-3-(amino)pyrrolidine (0.1 mmol) and triethylamine (0.15 mmol) were dissolved in CH2Cl2. Acetylchloride (0.12 mmol) was added, and the reaction was stirred at room temperature for 16 hours. The organics were then washed with 1 N HCl, NaHCO3, and brine. The organic solution was dried over sodium sulfate, concentrated in vacuo, and purified by silica gel column chromatography eluting with 4% methanol in CH2Cl2 to yield the title compound.

reactant | (S)-N-(2,3-dihydrobenzofuran-4-yl)-3-(amino)pyrrolidine | 0.1 mmol | O1CCC2=C1C=CC=C2N2C[C@H](CC2)N | C12H16N2O
reactant | triethylamine | 0.15 mmol | C(C)N(CC)CC | C6H15N
reactant | Acetylchloride | 0.12 mmol | C(C)(=O)Cl | C2H3ClO
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (S)-N-[N-(2,3-Dihydrobenzofuran-4-yl)-Pyrrolidin-3-yl]Acetamide | O1CCC2=C1C=CC=C2N2C[C@H](CC2)NC(C)=O | C14H18N2O2
